US08003649B2
A mixture of 1-benzyl-1,4-diazepane and 6-chloro-3-difluoromethyl-1,2,4-triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 1 to give 6-(4-benzyl-1,4-diazepan-1-yl)-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-benzyl-1,4-diazepane | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
reactant | 6-chloro-3-difluoromethyl-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)F | C6H3ClF2N4
product | 6-(4-benzyl-1,4-diazepan-1-yl)-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | C(C1=CC=CC=C1)N1CCN(CCC1)C=1C=CC=2N(N1)C(=NN2)C(F)F | C18H20F2N6
